US08492577B2
WO 2007/005967 discloses the condensation of p-Bromobenzylbromide with valine methyl ester to give (S)-methyl-2-(4-bromobenzylamino)-3-methyl butanoate which on reaction with valeryl chloride to give (S)-methyl-2-(4-bromobenzyl)pentanamido)-3-methylbutanoate. (S)-methyl-2-(4-bromobenzyl)pentanamido)-3-methylbutanoate is treated with 2-(1-trityl-1H-tetrazol-5-yl)phenylboronic acid to give (S)-3-methyl-2-{pentanoyl-[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]amino}butyric acid methyl ester and base hydrolysis to give trityl valsartan. Triltyl valsartan is treated with an acid to give valsartan.

reactant | 3-methylbutanoate | CC(CC(=O)[O-])C
reactant | 2-(1-trityl-1H-tetrazol-5-yl)phenylboronic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)B(O)O | C26H21BN4O2
reactant | (S)-3-methyl-2-{pentanoyl-[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]amino}butyric acid methyl ester | COC([C@H](C(C)C)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CCCC)=O)=O | C44H45N5O3
product | trityl valsartan | CCCCC(=O)N(CC1=CC=C(C=C1)C2=CC=CC=C2C3=NNN=N3)[C@@H](C(C)CC(C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)C(=O)O | C43H43N5O3
